US07491743B2
To a solution of 7-chloroindole (610 mg, 4 mmol) in anhydrous DMF (6 mL) was added NaH (170 mg, 60% dispersion in mineral oil, 4.3 mmol) at 0° C. under argon. The mixture was stirred at room temperature for 30 min before adding iodomethane (240 mg, 4 mmol). The resulting mixture was stirred overnight. The reaction mixture was diluted with EtOAc (200 mL), washed with saturated NaCl (10 mL×3), dried over anhydrous MgSO4, filtered, and concentrated to give 7-chloro-1-methylindole. The residue was used directly for the next step without further purification. 1H NMR (500 MHz, CDCl3): δ 4.14 (s, 3H), 6.46 (d, 1H, J=2.5), 6.95-6.98 (m, 2H), 7.12-7.14 (m, 1H), 7.48 (1H, dd, J=1.5, 7.5).

reactant | 7-chloroindole | 4 mmol, 610 mg | ClC=1C=CC=C2C=CNC12 | C8H6ClN
reactant | NaH | 4.3 mmol, 170 mg | [H-].[Na+]
reactant | iodomethane | 4 mmol, 240 mg | IC | CH3I
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | 7-chloro-1-methylindole | ClC=1C=CC=C2C=CN(C12)C | C9H8ClN
